US05200412
A mixture of L-valine (25.0 g, 0.21 mol), acetic anhydride (60.5 ml, 0.64 mol), pyridine (52 ml, 0.64 mol) and 4-dimethylaminopyridine (2.0 g, 16.6 mmol) was heated at reflux overnight. The reaction mixture was allowed to cool to room temperature and methanol added with rapid stirring. The mixture was concentrated under reduced pressure to give an oil which was dissolved in diethyl ether (250 ml), washed with 2M hydrochloric acid (150 ml), saturated aqueous sodium hydrogen carbonate (150 ml) and brine (150 ml) dried over anhydrous magnesium sulphate, filtered and evaporated. Distillation under reduced pressure gave N-acetyl-2-keto-3-amino-4-methylpentane (6.3 g, 19%) as a viscous straw coloured oil (76°-78° C. @1.5 mmHg).

reactant | L-valine | 0.21 mol, 25.0 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | acetic anhydride | 0.64 mol, 60.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.64 mol, 52 ml | N1=CC=CC=C1 | C5H5N
reactant | methanol | CO | CH4O
catalyst | 4-dimethylaminopyridine | 16.6 mmol, 2.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | N-acetyl-2-keto-3-amino-4-methylpentane | 6.3 g, 19% | C(C)(=O)NC(C(C)=O)C(C)C | C8H15NO2
